US06826033B2
To a solution of tert-butyl (S)-4-[4-[(anilinocarbonyl)amino]benzyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (1.48 g) in methanol (20 ml) was added 4N hydrogen chloride in ethyl acetate (5 ml) at room temperature, and the solution was stirred at the same temperature for 4 hours. The mixture was evaporated in vacuo, and the residue was triturated with diisopropyl ether to give (S)-N-[4-(2-amino-3-hydroxypropyl)phenyl]-N′-phenylurea hydrochloride (660 mg) as a colorless solide.

reactant | tert-butyl (S)-4-[4-[(anilinocarbonyl)amino]benzyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 1.48 g | N(C1=CC=CC=C1)C(=O)NC1=CC=C(C[C@@H]2N(C(OC2)(C)C)C(=O)OC(C)(C)C)C=C1 | C24H31N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (S)-N-[4-(2-amino-3-hydroxypropyl)phenyl]-N′-phenylurea hydrochloride | 660 mg | Cl.N[C@@H](CC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)CO | InChI=1S/C16H19N3O2.ClH/c17-13(11-20)10-12-6-8-15(9-7-12)19-16(21)18-14-4-2-1-3-5-14;/h1-9,13,20H,10-11,17H2,(H2,18,19,21);1H/t13-;/m0./s1
